US07893058B2
Step 4: 2-Bromo-5-(4-methoxy-benzyl)-3a, 5,6, 6a-tetrahydro-furo[2, 3-c]pyrrol-4-one
A solution of 5-bromo-2-[(4-methoxy-benzylamino)-methyl]-furan-3-carboxylic acid (618 mg, 1.82 mmol) and SOCl2 (0.136 mL) in DCM (2 mL) is stirred at 85° C. for 18 hours. The mixture is concentrated in vacuo and purified by silica gel column chromatography eluting with 7:3 petroleum ether:ethyl acetate to afford the title compound (0.169 g, 28%).

reactant | 5-bromo-2-[(4-methoxy-benzylamino)-methyl]-furan-3-carboxylic acid | 1.82 mmol, 618 mg | BrC1=CC(=C(O1)CNCC1=CC=C(C=C1)OC)C(=O)O | C14H14BrNO4
reactant | SOCl2 | 0.136 mL | O=S(Cl)Cl | Cl2OS
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-5-(4-methoxy-benzyl)-3a, 5,6, 6a-tetrahydro-furo[2, 3-c]pyrrol-4-one | 0.169 g, 28% | BrC1=CC2C(CN(C2=O)CC2=CC=C(C=C2)OC)O1 | C14H14BrNO3
